US09260408B2
[H] Ethanesulfonic acid [5-(5-methyl-6-oxo-5,6,7,8-tetrahydro-[1,5]naphthyridin-2-yl)-pyridin-3-ylmethyl]-amide
To a stirred solution of ethanesulfonic acid amide (118 mg, 1.08 mmol) in DMF (5.0 mL) was added 60% NaH (35 mg, 0.81 mmol) at RT and the resulting reaction mixture was stirred for 0.5 hour before 6-(5-chloromethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one (156 mg, 0.54 mmol) was added. After continued stirring at RT for additional 2 hours, water (1.0 mL) was added. After extraction with EtOAc, the organic layer was washed with brine, dried over anhy. Na2SO4, filtered and concentrated in vacuo to give a crude product which was purified by prep-HPLC to give title compound (15 mg, 7.7%) as a light yellow solid. MS: 361.1 (M+H+).

reactant | ethanesulfonic acid amide | 1.08 mmol, 118 mg | C(C)S(=O)(=O)N | C2H7NO2S
reactant | NaH | 0.81 mmol, 35 mg | [H-].[Na+]
reactant | 6-(5-chloromethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one | 0.54 mmol, 156 mg | ClCC=1C=C(C=NC1)C=1N=C2CCC(N(C2=CC1)C)=O | C15H14ClN3O
reactant | water | 1.0 mL | O | H2O
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | Ethanesulfonic acid [5-(5-methyl-6-oxo-5,6,7,8-tetrahydro-[1,5]naphthyridin-2-yl)-pyridin-3-ylmethyl]-amide | 15 mg, 7.7% | CN1C=2C=CC(=NC2CCC1=O)C=1C=C(C=NC1)CNS(=O)(=O)CC | C17H20N4O3S
